2190-08-19 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2190-8-19**] 05:25 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2190-8-19**] 12:18 AM
   Vancomycin - [**2190-8-19**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-8-18**] 02:30 PM
   Diazepam (Valium) - [**2190-8-18**] 10:39 PM
   Furosemide (Lasix) - [**2190-8-19**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-19**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 109 (92 - 112) bpm
   BP: 163/64(85) {128/53(69) - 165/84(96)} mmHg
   RR: 24 (10 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,235 mL
                                                                  1,160 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,175 mL
                                                                  1,160 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  2,570 mL
   Urine:
                                                                  1,500 mL
                                                                  2,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                 -1,410 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.36/26/76.[**Numeric Identifier 433**]/14/-8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   493 K/uL
   10.6 g/dL
   221 mg/dL
   2.1 mg/dL
   14 mEq/L
   3.2 mEq/L
   42 mg/dL
   114 mEq/L
   143 mEq/L
   30.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2190-8-18**]  02:38 PM
                             [**2190-8-18**]  04:03 PM
                             [**2190-8-18**]  04:59 PM
                             [**2190-8-18**]  09:09 PM
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
   WBC
   9.3
   13.2
   Hct
   30.6
   30.0
   Plt
   423
   493
   Cr
   2.4
   2.3
   2.1
   TCO2
   13
   15
   Glucose
   [**Telephone/Fax (3) 7807**]
   Other labs: PT / PTT / INR:14.3/25.1/1.2, CK / CKMB /
   Troponin-T:1678//, ALT / AST:22/53, Alk Phos / T Bili:93/0.2, Amylase /
   Lipase:57/30, Differential-Neuts:95.4 %, Lymph:3.5 %, Mono:0.6 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   [**Doctor Last Name 1932**]: hyperkalemia [**2-1**] to oliguria, acidemia, [**Last Name (un) 284**]/ACE, acidemia,
   rhabdo,BBlockade, hyperglycemia, hypoaldosteronism.
   Can give bicarb rather than calcium gluconate/insulin to reverse
   hyperkalemia if person acidemic.
   O/n events
   Renal consulted.
   Felt unlikely an RTA- acute buffering mechanisms raise bicarb by a few
   points in metabolic acidosis, renal compensation driven by ammonia
   takes several days - she is compensating appropriately. Unable to shed
   light on hypocalcemia.
   Access:
   2 20 gauge needles in R arm, 22 in left
   Plan:
   Metabolic Acidosis: AG from OSH on arrival 14, with bicarb 11 despite
   bicarb gtt, with expected PCO2 demonstrating compensation. Mixed
   picture of AG and non-AG acidosis most likely secondary to volume
   depletion, hypotension with subsequent lactic acidosis in setting of
   diarrhea. Diarrhea decreased, acidosis persisted longer, however is
   less acidemic currently however continues to have hypokalemia despite
   resolved acidosis,despite getting lasix, with low bicarb which
   initially raised the q of RTA. According to renal u can't invoke an RTA
   in setting of ARF, only when kidney's are otherwise normal.
   However, consistent with distal RTA (not excreting H+). - Urine Ca
   pending.
    Per renal, in setting metabolic acidosis initially buffering
   mechanisms increase bicarb slightly, however may take kidney several
   days to return to nl bicarb via ammonia excreting dependent mechanisms.
   Most recent ABG of:
   Is gap closed:
   Is still compensated:
   Continue IVF (LR given hyperchloremia).
   Continue to monitor stool output.
   Repeat ABG with lactate if not closed.
   F/U urine/serum tox to confirm no other cause gap acidosis.
   f/u UA for urine lytes (eval for ATN, RTA) also check ketones (DKA as a
   cause for mixed acidosis).
   f/u renal recs.
   Pt is florid, red, could she be Cushingoid, Cohns?
   Metabolic derangements:
   Hypocalcemia, sort of higher phosphate: is this hypoparathyroidism?
   Urine Calcium pending.
   Hypoxic Respiratory Failure: per report pt required BIPAP prior to
   transfer, but found to be sating in mid 90s on floor with 2LNC. Pt had
   vomiting, + EGD y/d? with potential for aspiration, however would
   expect R lung, not left, and would not expect involvement of entire
   lung parenchyma.
   No s/s suspicious for hemo/chylothorax (which would be?).Low suspicion,
   no abx. ***
   CXR showed new, dependent pulmonary edema and BNP of [**Numeric Identifier 7808**] indicating
   CHF, however given renal failure, diuresis deferred at this time. Also
   pt's respiratory status is quite stable.
    -repeat CXR
   -repeat ABG
   - aspiration precautions.
   Hypotension:
   Resolved: Initially held antihypertensives, however pt's systolic bps
   in 140s in pm. Restarted metoprolol 25 [**Hospital1 **] (home dose?).
   Continuing to hold amlodipine, lisinopril, hydral for now.
   ARF: Cr increased to peak 3.4 at OSH. Felt secondary to volume
   depletion and possible AIN from NSAID use prior to admission.
   Unclear etiology. Pt at risk for abuse? Urine positive for
   benzos/alcohol. Serum?
   Hypotension leading to some ischemia - ATN vs toxin - following tox
   screen, vs NSAID abuse.
   IVF repletion.
   f/u urine lytes *
   f/u renal recs
   Avoid nephrotoxins including NSAIDS, hold lisinopril.
   Hypokalemia: likely related to acidemia, however acidemia resolved thus
   should not still be acidemic.
   Hypocalcemia: Ca at OSH 5.7, of unclear etiology. New since prior
   hospitalizations.
   Urine Ca?
   ? Hypoparathyroidism
   -Send albumin and Ca, ionized Ca
   -Trend Mg
   -Check PTH
   -Check Lipase/Amylase
   C.diff colitis: Per OSH records, pt was diagonsed with Ca.diff and
   started on p.o Vanc. Stopped on [**8-12**]. Now started on p.o vanc and IV
   flagyl for suspected recurrent C.diff. Unclear if prior C.diff toxins
   positive.
   -Likely primary contributor to her non gap acidosis.
   No diarrhea since arrival.
   Sent c.diff toxin -p
   Restarted on IV flagyl and P.O vanco for ? c.diff
   Including OSH this would be day ***
   -Obtain OSH micro data
   Trend WBC count (9.3)
   C.Parapsilosis: R knee septic arthritis/osteomyelitis- s/p open biopsy
   and open anterior synovectomy and I&D on [**6-16**].
   -Continue on fluconzaole renally dosed (day# of [**6-11**] month course
   -Knee exam appeats stable since last admission.
   - EKG given risk QT prolongation
   -diflucan can cause hypokalemia
   DM: continue lantus and insulin SS.
   Hx Alcohol abuse: Pt was at home for I week prior to admission. Denies
   recent ETOH.
   CIWA scale
   SW consult
   Valium for agitation
   FEN: diabetic diet. Replete lytes PRN.
   Access: PIV x2
   PPX: Cont PPI for gastritis, SC heparin.
   Skin: red buttocks
   Dispo: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-8-18**] 02:15 PM
   20 Gauge - [**2190-8-18**] 02:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-08-19 09:46:00 Physician Attending Progress Note
Chief Complaint: acidemia, ARF, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2190-8-19**] 05:25 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2190-8-19**] 12:18 AM
   Vancomycin - [**2190-8-19**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-8-18**] 02:30 PM
   Diazepam (Valium) - [**2190-8-18**] 10:39 PM
   Furosemide (Lasix) - [**2190-8-19**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-19**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 107 (92 - 112) bpm
   BP: 171/83(104) {128/53(69) - 171/84(104)} mmHg
   RR: 26 (10 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,235 mL
                                                                  1,195 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,175 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  3,030 mL
   Urine:
                                                                  1,500 mL
                                                                  3,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                 -1,835 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.36/26/76.[**Numeric Identifier 433**]/16/-8
   Physical Examination
   Gen: dishelved chronically ill female, lying in bed, responds to ?s but
   more alert this AM
   HEENT: o/p still dry
   CV: RR
   Chest: poor air movement left greater than right wheezing
   Abd: soft mildly tender to deep palp diffusely no rebound or guarding
   Ext: thin, swollen right knee
   Neuro: alert responsive, knows where she is this AM
   Labs / Radiology
   10.6 g/dL
   493 K/uL
   209 mg/dL
   2.0 mg/dL
   16 mEq/L
   3.0 mEq/L
   40 mg/dL
   115 mEq/L
   146 mEq/L
   30.0 %
   13.2 K/uL
        [image002.jpg]
   Serum osm 308 Osm gap 16                             AG
   15
                             [**2190-8-18**]  02:38 PM
                             [**2190-8-18**]  04:03 PM
                             [**2190-8-18**]  04:59 PM
                             [**2190-8-18**]  09:09 PM
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
   WBC
   9.3
   13.2
   Hct
   30.6
   30.0
   Plt
   423
   493
   Cr
   2.4
   2.3
   2.1
   2.0
   TCO2
   13
   15
   Glucose
   [**Telephone/Fax (3) 7810**]09
   Other labs: PT / PTT / INR:14.3/25.1/1.2, CK / CKMB /
   Troponin-T:1678//, ALT / AST:22/53, Alk Phos / T Bili:93/0.2, Amylase /
   Lipase:57/30, Differential-Neuts:95.4 %, Lymph:3.5 %, Mono:0.6 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   47 yr old woman transferred from OSH with severe metabolic acidosis and
   ARF
   1.       Met Acidosis: anion gap and non anion gap
 mixed picture.
   Expected paCo2 is 24 and by last ABG was in line. Likely initiated with
   sever volume depletion and profound diarrhea. Then went into ARF and ?
   has lost proper concentrating ability. She certainly appears to be
   bicarb wasting
 and we have made a bit of progress with this. Hope had
   been run even but she had resp dostress and received Lasix so we will
   need to see what effect this has- Appreciate Renal consultation.
   2.       ARF: Cr peaked at 3.4
 now 2.0 and DDX for some issues as
   outlined above
 did put out to Lasix early this AM
 need to watch
   lytes and Cr response to this- also watch K closely
   3.       Hypoxemic Resp Distress:  with assym pulm edema and lfte
   predominate infiltrate in CXR and high BNP concerning for
             decom CHF
 cycle CKs repeat 12 lead and  Check Echo.
   4.     Diarrrhea: C diff
 will repeat toxin and keep on Flagyl
   5.     Hypocalcemia: DDx acidemia poor intake
 replete and follow.
   Lipase normal
   6.    Knee Fungal Infection: check blood cx, keep on Fluc.
   7.    HTN: home agents
   8.    ETOH abuse: CIWA scale
 she is now requiring Va;ium with
   intermittent agitation and may be evolving in to ETOH withdrawl- and
   has hx of sever DTs so need to stay ahead of this.
   Remaining issue as per Housestaff
   ICU Care
   Nutrition: po diet MVI thiamine folate
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-8-18**] 02:15 PM
   20 Gauge - [**2190-8-18**] 02:17 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt and husband- he is supposed to come in today
   Code status: Full code
   Disposition : ICU for now given possible evolving DT and lectrolyte
   derangements, also resp distress
   Total time spent: 35

2190-08-20 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2190-8-19**] 06:51 PM
   Renal recs: ARF makes it impossible to say she has RTA, will further
   assess after ARF recovers, odd that she is hypokalemia, give potassium
   citrate 15cc [**Hospital1 **] as if has RTA, send repeat urine labs.
   Intermittent agitation throughout the day, with diazepam per CIWA
   protocol.  Persistently confused uncooperative, but not frankly
   agitated, tremulous, or diaphoretic.  Despite persistent restraints was
   able to pull 2 IV's during the day.  Currently has 2 peripheral IV's.
   Metoprolol dose changed to IV q3, increased to home equivalent.  HR and
   BP persistently elevated earlier during the night, improved with new
   metoprolol dosing.
   Also - echo done which showed 3 mm vegetation on anterior leaflet of
   mitral valve - this was NOT present on TEE from [**7-7**] of this year.
   Blood cultures drawn including fungal cultures.  ID consulted,
   recommended increasing fluconazole dose now that renal function
   improving.  Also recommended consulting ophthalmology, concern for
   retinal emboli.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2190-8-19**] 09:00 PM
   Metronidazole - [**2190-8-20**] 12:10 AM
   Vancomycin - [**2190-8-20**] 12:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 12:13 AM
   Diazepam (Valium) - [**2190-8-20**] 01:35 AM
   Metoprolol - [**2190-8-20**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-20**] 05:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 99 (85 - 116) bpm
   BP: 176/82(105) {135/62(79) - 191/100(118)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,400 mL
                                                                    700 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,280 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  6,305 mL
                                                                  1,650 mL
   Urine:
                                                                  6,305 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,905 mL
                                                                   -951 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   493 K/uL
   10.6 g/dL
   109 mg/dL
   1.7 mg/dL
   16 mEq/L
   3.0 mEq/L
   35 mg/dL
   119 mEq/L
   150 mEq/L
   30.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2190-8-18**]  02:38 PM
                             [**2190-8-18**]  04:03 PM
                             [**2190-8-18**]  04:59 PM
                             [**2190-8-18**]  09:09 PM
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
                             [**2190-8-19**]  12:16 PM
                             [**2190-8-19**]  04:31 PM
                             [**2190-8-19**]  09:20 PM
   WBC
   9.3
   13.2
   Hct
   30.6
   30.0
   Plt
   423
   493
   Cr
   2.4
   2.3
   2.1
   2.0
   1.8
   1.7
   TropT
   0.03
   0.05
   0.06
   TCO2
   13
   15
   Glucose
   [**Telephone/Fax (3) 7818**]
   Other labs: PT / PTT / INR:14.3/25.1/1.2, CK / CKMB /
   Troponin-T:989/7/0.06, ALT / AST:22/53, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:57/30, Differential-Neuts:95.4 %, Lymph:3.5 %,
   Mono:0.6 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:333 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   Plan:
   Metabolic Acidosis: AG from OSH on arrival 14, with bicarb 11 despite
   bicarb gtt, with expected PCO2 demonstrating compensation. Mixed
   picture of AG and non-AG acidosis most likely secondary to volume
   depletion, hypotension with subsequent lactic acidosis in setting of
   diarrhea. Diarrhea decreased, acidosis persisted longer, however is
   less acidemic currently however continues to have hypokalemia despite
   resolved acidosis,despite getting lasix, with low bicarb which
   initially raised the q of RTA. According to renal u can't invoke an RTA
   in setting of ARF, only when kidney's are otherwise normal.
   f/u renal recs.
   Metabolic derangements:
   Hypocalcemia, sort of higher phosphate: Ca8.2 today thus  correcting,
   however in hypocalcemia can correct ocutely with repletion, and remain
   unable to maintain nl levels. ? Hypoparathyroidsm vs hypomagensium. Vs
   pseudohypoparathyroidism, vs rhabdomyolisis, vs osteomalacia.
   Hypoxic Respiratory Failure: per report pt required BIPAP prior to
   transfer, but found to be sating in mid 90s on floor with 2LNC. Pt had
   vomiting, + EGD y/d? with potential for aspiration, however would
   expect R lung, not left, and would not expect involvement of entire
   lung parenchyma.
   No s/s suspicious for hemo/chylothorax (which would be?).Low suspicion,
   no abx. ***
   CXR showed new, dependent pulmonary edema and BNP of [**Numeric Identifier 7808**] indicating
   CHF, however given renal failure, diuresis deferred at this time. Also
   pt's respiratory status is quite stable.
    -repeat CXR
   -repeat ABG
   - aspiration precautions.
   Hypertension:  had been hypotensive, holding antihypertensives, but
   during the day yesterday and especially during the evening pressures
   were persistently elevated, with mild tachycardia.
   -metoprolol switched to q3 IV dosing, at equivalent of previous home
   levels.
   -continue diazepam per CIWA protocol.
   -Zyprexa given x1, to provide some sedation apart from increasing benzo
   load.
   ARF: Cr continues to improve from peak of 3.4 at OSH, brisk UOP.  Renal
   following.
   Unclear etiology. Pt at risk for abuse? Urine positive for
   benzos/alcohol. Serum?
   Hypotension leading to some ischemia - ATN vs toxin - following tox
   screen, vs NSAID abuse.
   IVF repletion.
   f/u urine lytes *
   f/u renal recs
   Avoid nephrotoxins including NSAIDS, hold lisinopril.
   Hypokalemia: persistent, continuing IV repletion.  Attempted PO
   repletion yesterday, but patient vomited immediately afterward.
   Hypocalcemia: Ca at OSH 5.7, of unclear etiology. New since prior
   hospitalizations.
   Urine Ca?
   ? Hypoparathyroidism
   -Send albumin and Ca, ionized Ca
   -Trend Mg
   -Check PTH
   -Check Lipase/Amylase
   C.diff colitis: Per OSH records, pt was diagonsed with Ca.diff and
   started on p.o Vanc. Stopped on [**8-12**]. Now started on p.o vanc and IV
   flagyl for suspected recurrent C.diff. Unclear if prior C.diff toxins
   positive.
   -Likely primary contributor to her non gap acidosis.
   No diarrhea since arrival.
   Sent c.diff toxin -p
   Restarted on IV flagyl and P.O vanco for ? c.diff
   Including OSH this would be day ?
   -Obtain OSH micro data
   Trend WBC count (9.3)
   C.Parapsilosis: R knee septic arthritis/osteomyelitis- s/p open biopsy
   and open anterior synovectomy and I&D on [**6-16**].
   -Continue on fluconzaole renally dosed (day# of [**6-11**] month course
   -Knee exam appeats stable since last admission.
   - EKG given risk QT prolongation
   -diflucan can cause hypokalemia
   DM: continue lantus and insulin SS.
   Hx Alcohol abuse: Pt was at home for I week prior to admission. Denies
   recent ETOH.
   CIWA scale
   SW consult
   Valium for agitation
   FEN: diabetic diet. Replete lytes PRN.
   Access: PIV x2
   PPX: Cont PPI for gastritis, SC heparin.
   Skin: red buttocks
   Dispo: pending above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: SS plus
   fixed dose glargine
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2190-08-20 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2190-8-19**] 06:51 PM
   Renal: ARF makes it impossible to say she has RTA, will further assess
   after ARF recovers, odd that she is hypokalemia, give potassium citrate
   15cc [**Hospital1 **] as if has RTA, send repeat urine labs.
   Intermittent agitation throughout the day, with diazepam per CIWA
   protocol.  Persistently confused uncooperative, but not frankly
   agitated, tremulous, or diaphoretic.  Despite persistent restraints was
   able to pull 2 IV's during the day.  Currently has 2 peripheral IV's.
   Metoprolol dose changed to IV q3, increased to home equivalent.  HR and
   BP persistently elevated earlier during the night, improved with new
   metoprolol dosing.
   Also - echo done which showed 3 mm vegetation on anterior leaflet of
   mitral valve - this was NOT present on TEE from [**7-7**] of this year.
   Blood cultures drawn including fungal cultures.  ID consulted,
   recommended increasing fluconazole dose now that renal function
   improving.  Also recommended consulting ophthalmology, concern for
   retinal emboli.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2190-8-19**] 09:00 PM
   Metronidazole - [**2190-8-20**] 12:10 AM
   Vancomycin - [**2190-8-20**] 12:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 12:13 AM
   Diazepam (Valium) - [**2190-8-20**] 01:35 AM
   Metoprolol - [**2190-8-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-20**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 99 (85 - 116) bpm
   BP: 180/93(112) {135/62(79) - 191/100(118)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,400 mL
                                                                    909 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,280 mL
                                                                    909 mL
   Blood products:
   Total out:
                                                                  6,305 mL
                                                                  1,910 mL
   Urine:
                                                                  6,305 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,905 mL
                                                                 -1,001 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   445 K/uL
   9.4 g/dL
   72 mg/dL
   1.5 mg/dL
   19 mEq/L
   2.8 mEq/L
   31 mg/dL
   119 mEq/L
   150 mEq/L
   27.6 %
   17.1 K/uL
        [image002.jpg]
                             [**2190-8-18**]  02:38 PM
                             [**2190-8-18**]  04:03 PM
                             [**2190-8-18**]  04:59 PM
                             [**2190-8-18**]  09:09 PM
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
                             [**2190-8-19**]  12:16 PM
                             [**2190-8-19**]  04:31 PM
                             [**2190-8-19**]  09:20 PM
                             [**2190-8-20**]  04:51 AM
   WBC
   9.3
   13.2
   17.1
   Hct
   30.6
   30.0
   27.6
   Plt
   [**Telephone/Fax (3) 7820**]
   Cr
   2.4
   2.3
   2.1
   2.0
   1.8
   1.7
   1.5
   TropT
   0.03
   0.05
   0.06
   TCO2
   13
   15
   Glucose
   [**Telephone/Fax (2) 7818**]
   72
   Other labs: PT / PTT / INR:14.1/24.1/1.2, CK / CKMB /
   Troponin-T:431/7/0.06, ALT / AST:22/53, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:57/30, Differential-Neuts:83.8 %, Lymph:12.9 %,
   Mono:1.3 %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:333 IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   Plan:
   C.Parapsilosis
 history of R knee septic arthritis, osteomyelitis.
   Now concern for endocarditis.  Increasing leukocytosis.
   -Echo yesterday showed small, new vegetation on anterior leaflet of
   mitral valve.  Not present on TEE from early [**Month (only) 93**].
   -Knee exam appears stable.
   -ID consulted
 advised continuing diflucan, but at increased dose now
   with improved renal function.  Pan-cultures sent following receipt of
   echo result, including fungal cultures.
   -continue to follow ID recs, will have low threshold for expanding
   antimicrobial coverage if fever or other signs of infection.
   -ophthalmology consult today per ID recs, in the setting of possible
   endocarditis, look for retinal emboli.
   -check LFT
   Possible UTI
 urine culture showed 10-100,000 GNR.  Started Cipro
   given overall clinical picture, leukocytosis.
   C. diff
 negative yesterday x1, no other stool.  Continue PO vanco and
   Flagyl.
   Cardiac echo findings
 echo with vegetation as above, new mild mitral
   regurg, normal function otherwise.
   -cardiac enzymes stable
 no change.  Trop 0.05, but CK-MB WNL
   -continue to monitor hemodynamics closely, daily EKG
   h/o hypoxemic respiratory failure: remains stable on 2LNC.  Reports no
   improvement with neb treatments.  CXR and exam yesterday consistent
   with volume overload, autodiuresis produced net negative fluid
   balance.  Denies SOB this am.
    -repeat CXR after PICC this morning
   - aspiration precautions.
   Hypertension:  had been hypotensive, holding antihypertensives, but
   during the day yesterday and especially during the evening pressures
   were persistently elevated, with mild tachycardia.
   -metoprolol switched to q3 IV dosing, at equivalent of previous home
   levels.
   -This morning more able to tolerate PO intake, will transition meds to
   PO as possible.
   -continue diazepam per CIWA protocol.
   -Zyprexa given x1, to provide some sedation apart from increasing benzo
   load.
   -Will add clonidine for BP control and prevention of withdrawal
   symptoms.
   -continue to monitor closely, use Ativan for signs/symptoms of
   developing withdrawal.
   ARF: Cr continues to improve from peak of 3.4 at OSH to 1.5 today, with
   brisk UOP.  Renal following.
   -etiology remains unclear.  Renal advised that RTA could be a factor,
   though cannot make the diagnosis in the setting of ARF.  Advised
   starting potassium citrate
 not on formulary, switched to Bicitra.
   -re-sent urine lytes yesterday per renal recs.
   -significant autodiuresis yesterday into overnight, with FeNa 8.8.
   Could potentially be [**2-1**] post-ATN diuresis?
   -continue to follow renal recommendations.
   -avoid nephrotoxins including NSAIDS, hold lisinopril.
   Hypokalemia: persistent, despite continued IV repletion.  Attempted PO
   repletion yesterday, but patient vomited immediately afterward.  This
   morning was able to tolerate PO potassium however.  Will plan for PICC
   today to allow for more effective repletion therapy and better access.
   Speech and swallow eval, try to improve PO nutrition.
   Metabolic Acidosis
 persistent but improving
   Other metabolic derangements:
   -hypomagnesemia
 will replete
   -hypocalcemia improved
   ? Hypoparathyroidism   -  PTH drawn yesterday, WNL
   DM: continue lantus and insulin SS.
   Hx Alcohol abuse: Pt was at home for I week prior to admission. Denies
   recent ETOH.  Plan as above, discussing hypertension control.
   CIWA scale
   SW consult
   Meds  for agitation
   FEN: diabetic diet. Replete lytes PRN.
   Access: PIV x2 .  Plan for PICC placement for more secure access,
   continuing electrolyte repletion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: SS plus
   glargine
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments: restraints
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2190-08-20 08:46:00 Physician Attending Progress Note
Chief Complaint: alcohol withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2190-8-19**] 06:51 PM
   echo with evidence of mitral valve vegetation - started on higher dose
   Fluconazole
   More confused last PM- agitation - higher dose Valium and Zyprexa given
   with concern for etoh withdrawl
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2190-8-19**] 09:00 PM
   Vancomycin - [**2190-8-20**] 12:13 AM
   Metronidazole - [**2190-8-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2190-8-20**] 01:35 AM
   Pantoprazole (Protonix) - [**2190-8-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 08:00 AM
   Metoprolol - [**2190-8-20**] 08:00 AM
   Other medications:
   Lidocaine, Protonix, Lantus, sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-20**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 97 (85 - 116) bpm
   BP: 177/103(121) {135/62(79) - 191/103(121)} mmHg
   RR: 20 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 79 kg
             Total In:
                                                                  2,400 mL
                                                                  1,302 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,280 mL
                                                                  1,302 mL
   Blood products:
   Total out:
                                                                  6,305 mL
                                                                  2,210 mL
   Urine:
                                                                  6,305 mL
                                                                  2,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,905 mL
                                                                   -908 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Gen: dishelved chronically ill female, lying in bed, responds to ?s and
   is not confused
   HEENT: o/p still dry
   CV: RR
   Chest: poor air movement left greater than right wheezing
   Abd: soft mildly tender to deep palp diffusely no rebound or guarding
   Ext: thin, swollen right knee
   Neuro: alert responsive, knows where she is month year
 talks about
   her daughter
   [**Name (NI) 610**] / Radiology
   9.4 g/dL
   445 K/uL
   72 mg/dL
   1.5 mg/dL
   19 mEq/L
   2.8 mEq/L
   31 mg/dL
   119 mEq/L
   150 mEq/L
   27.6 %
   17.1 K/uL
        [image002.jpg]
                             [**2190-8-18**]  02:38 PM
                             [**2190-8-18**]  04:03 PM
                             [**2190-8-18**]  04:59 PM
                             [**2190-8-18**]  09:09 PM
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
                             [**2190-8-19**]  12:16 PM
                             [**2190-8-19**]  04:31 PM
                             [**2190-8-19**]  09:20 PM
                             [**2190-8-20**]  04:51 AM
   WBC
   9.3
   13.2
   17.1
   Hct
   30.6
   30.0
   27.6
   Plt
   [**Telephone/Fax (3) 7820**]
   Cr
   2.4
   2.3
   2.1
   2.0
   1.8
   1.7
   1.5
   TropT
   0.03
   0.05
   0.06
   TCO2
   13
   15
   Glucose
   [**Telephone/Fax (3) 7818**]
   72
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:14.1/24.1/1.2, CK / CKMB /
   Troponin-T:431/7/0.06, ALT / AST:22/53, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:57/30, Differential-Neuts:83.8 %, Lymph:12.9 %,
   Mono:1.3 %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:333 IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Urine Na 117 Osm 330
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   47 yr old woman transferred from OSH with severe metabolic acidosis and
   ARF
   1.       New endocarditis: concerning for fungal veg given recent
   fungal osteo- follow up blood cultures Higher does Fluconazole, may
   need Micafungin
 awaiting formal ID consult. Would get head CT to look
   for embolic events.  Have not empirically covered for GPC and GNR but
   these are also possible sources for veg given she had long hosp course
   PICC and UTI and could have been bacteremic. Pan culture.
   In terms of function she does have new mitral regurg and elevated BNP
   Check daily ECG for intervals.
   She is not an optimal candidate for valve replacement but will consult
   Csurg in near future for their opinion
   2.       ARF: Cr peaked at 3.4
 now 1.5 suspect post ATN diuresis
   watch and replete lytes Appreciate renal involvement- wonder about
   infarcts now that we know she had endocarditis
   3.        HyperNa: in post ATN- replete free water check this afternoon
   4.        Hypoxemic Resp Distress:  with assym pulm edema and left
   predominate infiltrate in CXR and high BNP concerning for
              decom CHF
 esp relevant with new MR
 she is autodiuresing
   but may need more assistance.
   5.        Met Acidosis: anion gap and non anion gap
 mixed picture
   slowly improving
   6.        Diarrrhea: C diff
 will repeat toxin and keep on
   Flagyl/Vanco
   7.        Knee Fungal Infection: check blood cx, keep on Fluc.
   8.         HTN: home agents
 try to get pos today, driven by home
   bblocker withdrawl and ETOH
   9.    ETOH abuse: CIWA scale
 she is now requiring Valium with
   intermittent agitation and may be evolving in to ETOH withdrawl- and
   has hx of severe DTs so need to stay ahead of this.
   Remaining issue as per Housestaff
   ICU Care
   Nutrition: seen by Speech and Swallow
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   Communication:  with husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Critoical Care for ETOH withdrawl and decompensted CHF 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2190-8-20**] 11:39 ------

2190-08-21 07:06:00 Physician Resident Progress Note
Chief Complaint: The patient is a 47y/o F with a PMH of DM, EtOH abuse,
   C. parapsilosis R knee septic arthritis/osteomyelitis recently admitted
   with Delirium tremens/PRES now presenting with hypotension, hypoxia and
   acute renal failure in the setting of recent C. diff colitis.
   24 Hour Events:
 PICC LINE - START [**2190-8-20**] 09:55 AM
   OSH cultures NGTD [**8-17**], [**8-18**]
   - Rehab records faxed: C DIFF positive on [**2190-7-28**]
   - Increased work of breathing, increased oxygen requirements early in
   day. Running theory was worsening heart failure of unknown etiology. If
   increased difficulty breathing consider diurese.
   - ECHO - read with cardiology - ? vegetation. Minimal MR, not cause of
   heart failure
   - K normal, increased Na, free water deficit 1.2L - 40mEqK 1L D5W Will
   repeat lytes at 10pm. Repeat lytes showed hyponatremia and hypokalemia,
   gave 40mEq NS, repeat showed hypernatremia, hypokalemia, gave 40mEq K
   D5W
   - Renal - may be related to fluconazole, need daily ulytes, k, na, cl,
   UA...also need once SPEP, UPEP, Renal u/s, [**Doctor First Name **], SSB, SSA
   Events: Pt remains withdrawn/apathetic- no Diazepam for CIWA.  Multiple
   wounds noted on arms and legs-covered with mepilex for protection.  BP
   elevated at beginning of shift 140/`09 but falling overnight to 107/
   -120
s/ with Metoprolol 37.6 PO and Clonidine .2mg.  Attempting to wean
   O@- sat 92-94% on 4 L NC- falling overnight to 89 -90% and placed back
   on face tent 40% FiO2 10 L.  Treating mult electrolyte imbalances.
   Hypertension, benign
   Assessment:
   BP variable- hypertensive while awake 140/90
s, falling briefly to
   107/50 while asleep post 25mg Trazedone and receiving BP meds, while
   asleep over night 120
s/6-
   Action:
   Given PM dose 37.5 mg PO Metoprolol, .2mg Clonidine
   Response:
   BP 120
s/60
s, no C/O of HA, good perfusion
   Plan:
   Cont BP regimen, monitor BP and perfusion
   Impaired Skin Integrity
   Assessment:
   Over all extremities mult abrasions noted, large left arm anticub skin
   tear and abrasion
   Action:
   Cleaned skin with foam cleanser and mepelix to left arm skin tear and
   right
   Response:
   All dng
s intact on pt, pt very reluctant to move/turn but moving with
   encouragement, minor cuts unchanged
   Plan:
   Support nutrition when able, barrier cream to extremities, mepelex for
   breakdown
   Electrolyte & fluid disorder, other
   Assessment:
   [**8-21**] PM labs- K3.3, mg 1.4
   Action:
   Given 2 g IV Magnesium Sulfate, infused 40meq KCL in 500 D5W
   Response:
   Post labs/AM labs
   Plan:
   Cont to monitor, cont electrolyte repletion
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2190-8-20**] 04:00 PM
   Ciprofloxacin - [**2190-8-20**] 08:00 PM
   Fluconazole - [**2190-8-21**] 12:00 AM
   Vancomycin - [**2190-8-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-8-20**] 08:00 AM
   Metoprolol - [**2190-8-20**] 08:00 AM
   Hydralazine - [**2190-8-20**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-21**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 70 (67 - 104) bpm
   BP: 132/62(80) {107/53(66) - 191/109(121)} mmHg
   RR: 22 (20 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 79 kg
             Total In:
                                                                  4,197 mL
                                                                  1,344 mL
   PO:
                                                                    510 mL
                                                                    630 mL
   TF:
   IVF:
                                                                  3,687 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                  5,065 mL
                                                                    320 mL
   Urine:
                                                                  5,065 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   339 K/uL
   8.2 g/dL
   72 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   22 mg/dL
   119 mEq/L
   149 mEq/L
   24.9 %
   10.8 K/uL
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
                             [**2190-8-19**]  12:16 PM
                             [**2190-8-19**]  04:31 PM
                             [**2190-8-19**]  09:20 PM
                             [**2190-8-20**]  04:51 AM
                             [**2190-8-20**]  01:20 PM
                             [**2190-8-20**]  09:51 PM
                             [**2190-8-21**]  12:26 AM
                             [**2190-8-21**]  05:10 AM
   WBC
   13.2
   17.1
   10.8
   Hct
   30.0
   27.6
   24.9
   Plt
   493
   445
   339
   Cr
   2.0
   1.8
   1.7
   1.5
   1.3
   1.2
   1.3
   1.3
   TropT
   0.05
   0.06
   TCO2
   15
   Glucose
   [**Telephone/Fax (3) 7825**]2
   92
   807
   162
   72
   Other labs: PT / PTT / INR:14.2/26.4/1.2, CK / CKMB /
   Troponin-T:431/7/0.06, ALT / AST:19/24, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:57/30, Differential-Neuts:71.0 %, Lymph:20.8 %,
   Mono:2.4 %, Eos:5.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:278 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: [**2190-8-20**] Since the previous study, there has been a
   worsening of the multifocal
   pulmonary opacities particularly in the right mid and upper lung which
   are
   more dense and confluent. In the left lung, there may be an area of
   cavitation in the mid lung consolidation and new opacities in the left
   lower
   lung. Cardiomediastinal silhouette is unchanged. No pneumothorax.
   Microbiology: bacterial and mycolytic blood Cx P, urine Cx, cediff neg,
   urine Cx of [**2190-8-18**] for klebsiella pna
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACIDOSIS, METABOLIC
   Plan:
   R knee C.Parapsilosis osteomyelitis started diflucan on [**6-16**] but
   noncompliant. Now concern for endocarditis with TTE showing question of
   vegetation. Per ID,retap joint to determine whether still septic, if
   septic, will require prolonged course abx, if not septic, to continue
   diflucan until seen as o/p with further recommendations at that time.
   -Echo yesterday showed small, new vegetation on anterior leaflet of
   mitral valve.  Not present on TEE from early [**Month (only) 93**].
   Consider repeat TEE. Follow up with cards. No new murmur, no [**Doctor Last Name **]
   spots/ findings suggestive of embolic disease seen by optho consult.
   -Knee exam appears stable. Ortho to retap. As renal function increased
   over MICU stay, ID advised increasing diflucan dose. Pan cultures sent
   following receipt of echo result, including fungal cultures
pending.
   Possible UTI
 urine culture showed 10-100,000 klebsiella species.
   Started Cipro, now day 2.
   Pt started on treatment course for C. diff from OSH. Unclear how
   compliant pt has been with treatment course, and c.diff +ve at OSH so
   decided to restart a treatment course here. Initially on vanc/flagyl,
   no diarrhea since admission now just p.o vanc.
   C.diff cx
ve x2 in house.
   Mitral Valve regurg
   Cardiac echo findings
 echo with vegetation as above, new mild mitral
   regurg, normal function otherwise. Cardiac enzymes stable
 no change.
   Trop 0.05, but CK-MB WNL. No new murmur on daily exam, no change EKGs.
   Continue to monitor hemodynamics closely, heart exam, daily EKG
   h/o hypoxemic respiratory failure: possibly combination of dCHF +
   aspiration+reactive airway disease.
   CXR shows findings consistent with volume overload, expiratory wheezes
   [**2-1**] COPD vs cardio
   Had 02 requirement, successfully weaned with initial autodiuresis then
   minimal lasix. Pt irritated by albuterol nebs, used atrovent nebs with
   good effect.
    stable on 2LNC.  Reports no improvement with neb treatments.  CXR and
   exam yesterday consistent with volume overload, autodiuresis produced
   net negative fluid balance.  Denies SOB this am.
   -repeat CXR after PICC this morning.
   - aspiration precautions.
   Hypertension:  had been hypotensive, holding antihypertensives, but
   during the day yesterday and especially during the evening pressures
   were persistently elevated, with mild tachycardia.
   -metoprolol switched to q3 IV dosing, at equivalent of previous home
   levels.
   -This morning more able to tolerate PO intake, will transition meds to
   PO as possible.
   -continue diazepam per CIWA protocol.
   -Zyprexa given x1, to provide some sedation apart from increasing benzo
   load.
   -Will add clonidine for BP control and prevention of withdrawal
   symptoms.
   -continue to monitor closely, use Ativan for signs/symptoms of
   developing withdrawal.
   ARF: Cr continues to improve from peak of 3.4 at OSH to 1.5 today, with
   brisk UOP.  Renal following.
   -etiology remains unclear.  Renal advised that RTA could be a factor,
   though cannot make the diagnosis in the setting of ARF.  Advised
   starting potassium citrate
 not on formulary, switched to Bicitra.
   -re-sent urine lytes yesterday per renal recs.
   -significant autodiuresis yesterday into overnight, with FeNa 8.8.
   Could potentially be [**2-1**] post-ATN diuresis?
   -continue to follow renal recommendations.
   -avoid nephrotoxins including NSAIDS, hold lisinopril.
   Hypokalemia: persistent, despite continued IV repletion.  Attempted PO
   repletion yesterday, but patient vomited immediately afterward.  This
   morning was able to tolerate PO potassium however.  Will plan for PICC
   today to allow for more effective repletion therapy and better access.
   Speech and swallow eval, try to improve PO nutrition.
   Metabolic Acidosis
 persistent but improving
   Other metabolic derangements:
   -hypomagnesemia
 will replete
   -hypocalcemia improved
   ? Hypoparathyroidism   -  PTH drawn yesterday, WNL
   DM: continue lantus and insulin SS.
   Hx Alcohol abuse: Pt was at home for I week prior to admission. Denies
   recent ETOH.  Plan as above, discussing hypertension control.
   CIWA scale
   SW consult
   Meds  for agitation
   FEN: diabetic diet. Replete lytes PRN.
   Access: PIV x2 .  Plan for PICC placement for more secure access,
   continuing electrolyte repletion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: SS plus
   glargine
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments: restraints
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   PICC Line - [**2190-8-20**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-08-21 12:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HCO3 infusion discontinued.
   Cardiac echo suggested possible mitral valve vegetation (?).
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2190-8-20**] 04:00 PM
   Ciprofloxacin - [**2190-8-20**] 08:00 PM
   Fluconazole - [**2190-8-21**] 12:00 AM
   Vancomycin - [**2190-8-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2190-8-20**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 04:00 PM
   Furosemide (Lasix) - [**2190-8-21**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-8-21**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 66 (66 - 99) bpm
   BP: 134/69(85) {107/53(66) - 191/109(116)} mmHg
   RR: 22 (20 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 79 kg
             Total In:
                                                                  4,197 mL
                                                                  1,469 mL
   PO:
                                                                    510 mL
                                                                    730 mL
   TF:
   IVF:
                                                                  3,687 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  5,065 mL
                                                                    900 mL
   Urine:
                                                                  5,065 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, mild
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : diffuse, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   339 K/uL
   72 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   22 mg/dL
   119 mEq/L
   149 mEq/L
   24.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2190-8-18**]  11:32 PM
                             [**2190-8-19**]  06:21 AM
                             [**2190-8-19**]  12:16 PM
                             [**2190-8-19**]  04:31 PM
                             [**2190-8-19**]  09:20 PM
                             [**2190-8-20**]  04:51 AM
                             [**2190-8-20**]  01:20 PM
                             [**2190-8-20**]  09:51 PM
                             [**2190-8-21**]  12:26 AM
                             [**2190-8-21**]  05:10 AM
   WBC
   13.2
   17.1
   10.8
   Hct
   30.0
   27.6
   24.9
   Plt
   493
   445
   339
   Cr
   2.0
   1.8
   1.7
   1.5
   1.3
   1.2
   1.3
   1.3
   TropT
   0.05
   0.06
   TCO2
   15
   Glucose
   [**Telephone/Fax (3) 7825**]2
   92
   807
   162
   72
   Other labs: PT / PTT / INR:14.2/26.4/1.2, CK / CKMB /
   Troponin-T:431/7/0.06, ALT / AST:19/24, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:57/30, Differential-Neuts:71.0 %, Lymph:20.8 %,
   Mono:2.4 %, Eos:5.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:278 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   47 yr old woman transferred from OSH with severe metabolic acidosis and
   ARF
   RESPIRATORY DISTRESS -- attributed to pulmonary edema, perhaps
   cardiogenic or non-cardiogneic (i.e. ARDS). Wheezes may be cardiac
   wheezes or reactive airways disease (former smoker).   Monitor RR,
   SaO2, CXR.  Treat with diuretics.  Would use b-agonist and atrovent,
   consider brief course steroids (inhaled or parenteral).
   ENDOVASCULAR INFECTION(?) --  concern for small vegetation by echo (?
   fungal).  Consider TEE.  Monitor blood cultures.  ID consultation in
   progress.
   RIGHT KNEE ARTHRITIS --  Candidal osteomyelitis, persistent.  Check
   blood cx, continue Fluconazole.  If evidence for endovascular
   infection, may need to consider definitive treatment of right knee
   infection.
   ACUTE RENAL FAILURE -- Creatinine peaked at 3.4 --> now improved to
   1.5, attributed to ATN.  Now with post-ATN diuresis --> monitor and
   replete lytes.
   HYPERNATREMIA -- attributed to post ATN --> replete free water, monitor
   Na
   METABOLIC ACIDOSIS -- mixed anion gap and non anion gap
 slowly
   improving
   NIDDM -- moonitor glucose, maintain <150
   DIARRHEA -- + C diff from outside facility
 will repeat toxin,
   maintain Flagyl/Vanco
   HTN -- maintain home agents
   EtOH -- monitor  for withdrawal, CIWA
   NUTRITIONAL SUPPORT -- encourage suppliments
   Remaining plans as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-8-19**] 03:00 PM
   PICC Line - [**2190-8-20**] 09:55 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill